US07888362B2
By a similar method as in Example 1, 2-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-3,4-dihydro-2H-isoquinolin-1-one was prepared from 2-(4-chlorobutyl)-3,4-dihydro-2H-isoquinolin-1-one, and after it was made into an ethanol solution, 1N hydrochloric acid ethanol solution was added thereto, precipitated crystals were separated by filtration, recrystallized from a mixed solvent of isopropyl alcohol-ethanol and thereby 2-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-3,4-dihydro-2H-isoquinolin-1-one hydrochloride was obtained.

reactant | 2-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-3,4-dihydro-2H-isoquinolin-1-one | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCN2C(C1=CC=CC=C1CC2)=O | C25H29N3OS
reactant | 2-(4-chlorobutyl)-3,4-dihydro-2H-isoquinolin-1-one | ClCCCCN1C(C2=CC=CC=C2CC1)=O | C13H16ClNO
reactant | hydrochloric acid ethanol | 1N | C(C)O.Cl
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)butyl]-3,4-dihydro-2H-isoquinolin-1-one hydrochloride | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCN2C(C1=CC=CC=C1CC2)=O | InChI=1S/C25H29N3OS.ClH/c29-25-21-7-2-1-6-20(21)10-14-28(25)13-4-3-12-26-15-17-27(18-16-26)23-8-5-9-24-22(23)11-19-30-24;/h1-2,5-9,11,19H,3-4,10,12-18H2;1H
